Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Keflex
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ male with a PMH of acute
diverticulitis (3 episodes in the past 18 months, one of which
was complicated by microperforation that was managed medically),
prostate CA s/p robotic prostatectomy in ___ but otherwise
healthy who presented to the ED with abdominal pain.  The pain
began yesterday and feels similar to prior episodes of
diverticulitis but is much more severe. It got progressively
worse over the course of the day, is constant, does not radiate,
but is relieved by urination.  It is crampy in character and is
now quite severe.  He has been diaphoretic but has not had fever
or chills.  He has not had diarrhea; he last had a normal bowel
movement earlier this afternoon.  He has not had chest pain,
shortness of breath, back pain, dysuria, diarrhea, black or
bloody stool. He had his appendix removed years ago. No other
history of bowel-altering surgery.

In the ED, initial VS were 97.7 59 114/70 18 100% RA.  Labs were
notable for WBC 9.8 w/ 75% PMNs, Hgb 13.7, plts 208, LFTs WNL
including lipase, BUN/Cr ___, lytes WNL, Lactate 1.1, UA with
6 WBCs but otherwise unremarkable.  CT Abd/pelvis was performed
and revealed acute diverticulitis of the proximal sigmoid colon
without signs of perforation.  Blood and urine cultures were
collected, the patient received IV metronidazole and
ciprofloxacin, as well as morphine 4 mg IV, and was admitted. 
Vitals prior to transfer were 
98.2 60 123/75 16 98% RA.  

On arrival to the floor, the patient reported ongoing lower
abdominal pain but had no other complaints.  

 
Past Medical History:
Diverticulosis
appendectomy ___
disc surgery                 

 
Social History:
___
Family History:
Nephrolithiasis - no 
Renal Cell CA   - no
Prostate CA     -yes, father with metastases deceased at ___ 
years
Bladder CA      - no    
 
Physical Exam:
VITALS:  98.4 PO 117 / 73 75 18 96 RA  
GENERAL: Alert and in mild distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, mild tenderness to palpation in
the suprapubic area / LLQ.  Bowel sounds present.  
GU: No suprapubic fullness 
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: AOx3

 
Pertinent Results:
___ 05:02AM BLOOD WBC-6.2 RBC-3.73* Hgb-12.2* Hct-36.4* 
MCV-98 MCH-32.7* MCHC-33.5 RDW-13.2 RDWSD-47.8* Plt ___
___ 05:02AM BLOOD Glucose-115* UreaN-12 Creat-0.7 Na-143 
K-4.4 Cl-105 HCO3-27 AnGap-11
 
Brief Hospital Course:
SUMMARY/ASSESSMENT:  
Mr. ___ is a ___ male with a PMH of acute
diverticulitis (3 episodes in the past 18 months, one of which
was complicated by microperforation that was managed medically),
prostate CA s/p robotic prostatectomy in ___ but otherwise
healthy who presented to the ED with abdominal pain and imaging
findings compatible with acute uncomplicated sigmoid
diverticulitis. 

ACUTE/ACTIVE PROBLEMS:

# Acute uncomplicated diverticulitis:
Even though the patient currently has no evidence of
complications, is afebrile, and has no leukocytosis, he warrants
antibiotic treatment given his history of multiple episodes
including a possible complication (patient reports what he
believes was either a microperforation or abscess that was
treated medically).  
- Colorectal surgery consulted- appointment to be scheduled as 
an outpatient to discuss options
-discharged with PO cipro and flagyl, advised that Tylenol or 
ibuprofen can treat the pain. Diet advanced to regular, 
tolerated without symptoms. 
- Clear liquid diet
- Dicyclomine for cramp/spasm
- Daily Miralax 

CHRONIC/STABLE PROBLEMS:

# Prostate CA s/p prostatectomy in ___
Not currently an active issue, no evidence of surgical bed
pathology on recent CT.  It is curious that he reports that his
symptoms improve with urination, but as he has no irritative
voiding symptoms, this is unlikely to reflect urologic pathology
- Continue to monitor for symptoms 

# Lumbar disc surgery    
Not currently an active issue

# Glaucoma s/p iridotomy
Not currently an active issue

# Insomnia
- PRN Trazodone

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*10 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H Duration: 5 Days 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth three 
times a day Disp #*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute diverticulitis

 
Discharge Condition:
Ambulatory, tolerating diet, improvement of symptoms, alert and 
oriented

 
Discharge Instructions:
You were admitted with a diverticulitis episode.  You were 
treated with antibiotics, and evaluated by colorectal surgery.  
You can call their office at ___, and schedule an 
appointment with Dr. ___.  He does have an office in ___, 
if that location is more convenient for you.  
 
Followup Instructions:
___